US04560693
5. 6,6,7-Trifluoro-6,7-dihydro-2-[(4-methoxy-2-pyridyl)methylsulfinyl]-1H-[1,4]-dioxino[2,3-f]benzimidazole
A solution of 0.81 g of approximately 85% pure m-chloroperoxybenzoic acid in 20 ml of ethyl acetate is added dropwise to a solution of 1.5 g of 6,6,7-trifluoro-6,7-dihydro-2-[(4-methoxy-2-pyridyl)methylthio]-1H-[1,4]-dioxino[2,3-f]benzimidazole in 50 ml of methylene chloride at -20° C. to -15° C. in the course of 30 min., with stirring, and stirring is continued at this temperature for 30 min. 0.66 ml of triethylamine is added and the organic solution is washed with 1M potassium bicarbonate solution and then with water, dried with magnesium sulfate and concentrated in vacuo. The residue is allowed to crystallize from ether. 1.2 g (77%) of the title compound of m.p. 166°-167° C. (decomposition), from ethyl acetate, are obtained.

reactant | m-chloroperoxybenzoic acid | 0.81 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 6,6,7-trifluoro-6,7-dihydro-2-[(4-methoxy-2-pyridyl)methylthio]-1H-[1,4]-dioxino[2,3-f]benzimidazole | 1.5 g | FC1(C(OC=2C(=CC3=C(NC(=N3)SCC3=NC=CC(=C3)OC)C2)O1)F)F | C16H12F3N3O3S
reactant | triethylamine | 0.66 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 6,6,7-Trifluoro-6,7-dihydro-2-[(4-methoxy-2-pyridyl)methylsulfinyl]-1H-[1,4]-dioxino[2,3-f]benzimidazole | 1.2 g, 77% | FC1(C(OC=2C(=CC3=C(NC(=N3)S(=O)CC3=NC=CC(=C3)OC)C2)O1)F)F | C16H12F3N3O4S
